US07629482B2
The mixture of Cefprozil dimethylformamide solvate (58 gm, obtained in step-II) and water (100 ml) is stirred for 1 hour, filtered, washed with acetone (100 ml) and dried under vacuum at 40-45° C. to give 40 gm of cefprozil monohydrate (containing 10% E-isomer).

reactant | Cefprozil dimethylformamide | 58 gm | C/C=C/C1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O.CN(C=O)C
solvent | water | 100 ml | O | H2O
product | cefprozil monohydrate | 40 gm, 10% | C/C=C/C1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.O | InChI=1S/C18H19N3O5S.H2O/c1-2-3-10-8-27-17-13(16(24)21(17)14(10)18(25)26)20-15(23)12(19)9-4-6-11(22)7-5-9;/h2-7,12-13,17,22H,8,19H2,1H3,(H,20,23)(H,25,26);1H2/b3-2+;/t12-,13-,17-;/m1./s1
